US07579462B2
To 2.0 g (3.57 mmol) of geldanamycin in 40 ml of dry THF in a flame-dried flask was added 2.55 ml (17.8 mmol, solution in methanol, ca 7N) of ammonia under nitrogen. The reaction mixture was stirred at room temperature for 24 h at which time TLC analysis indicated the reaction was complete. The solvent was removed by rotary evaporation and the crude material was dissolved in 30 mL of EtOH and crystallized by addition of 120 mL of water to give 1.8 g (3.30 mmol) of 17-AG as red crystals (99% pure by HPLC). MP 284-286° C. 1H NMR and HPLC are consistent with the desired product.

reactant | geldanamycin | 3.57 mmol, 2.0 g | C[C@H]1C[C@@H]([C@@H]([C@H](/C=C(/[C@@H]([C@H](/C=C\C=C(\C(=O)NC2=CC(=O)C(=C(C1)C2=O)OC)/C)OC)OC(=O)N)\C)C)O)OC | C29H40N2O9
reactant | ammonia | 17.8 mmol, ca 7N, 2.55 ml | N | H3N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 17-Amino Geldanamycin | 3.30 mmol, 1.8 g | C[C@H]1C[C@H]([C@@H]([C@H](/C=C(/[C@@H]([C@@H](/C=C\C=C(\C(=O)NC2=CC(=O)C(=C(C1)C2=O)N)/C)OC)OC(=O)N)\C)C)O)OC | C28H39N3O8
